US06344459B1
To a stirred solution of 6-amino-4-[(3-bromophenyl)amino]quinazoline (J Med Chem, 1995;38:3482) (0.30 g, 0.95 mmol) in THF (20 mL) under nitrogen was added Et3N (3.5 mol eq., 3.33 mmol, 245 μL), a catalytic amount of DMAP and chloroethanesulfonyl chloride (1.2 mol eq., 1.14 mmol, 119 μL) dropwise. The reaction was stirred at 25° C. for 1 hour and then diluted with saturated NaHCO3 and extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4, concentrated under reduced pressure, and chromatographed on silica gel eluting with MeOH/CH2Cl2/EtOAc (3:47:50). Crystallization from CH2Cl2/hexane gave N-[4-[(3-bromophenyl)amino]quinazolin-6-yl]vinylsulfonamide (210 mg, 54%) as a cream powder, mp 217° C. (dec).

reactant | 6-amino-4-[(3-bromophenyl)amino]quinazoline | 0.95 mmol, 0.30 g | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Br | C14H11BrN4
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | chloroethanesulfonyl chloride | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-[4-[(3-bromophenyl)amino]quinazolin-6-yl]vinylsulfonamide | 210 mg, 54% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)C=CNS(=O)=O | C16H13BrN4O2S
